US07981903B2
Using General Protocol II and starting with 2,4-dichloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine (4.0 g, 11.7 mmol) and 2-amino-5-bromobenzamide (7.6 g, 35.2 mmol), 5-bromo-2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide was isolated as a yellow solid (2.1 g, 35% Yield); 1H NMR (400 MHz, DMSO-d6) δppm 2.36 (s, 3 H), 6.70 (d, J=3.66 Hz, 1 H), 7.46 (d, J=8.42 Hz, 2 H), 7.74-7.78 (m, 2 H), 7.88 (s, 1 H), 7.97 (d, J=8.42 Hz, 2 H), 8.00 (d, J=2.20 Hz, 1 H), 8.35 (d, J=8.79 Hz, 1 H), 8.39 (s, 1 H), 12.16 (s, 1 H).

reactant | 2,4-dichloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine | 11.7 mmol, 4.0 g | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)Cl | C13H9Cl2N3O2S
reactant | 2-amino-5-bromobenzamide | 35.2 mmol, 7.6 g | NC1=C(C(=O)N)C=C(C=C1)Br | C7H7BrN2O
product | 5-bromo-2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide | BrC=1C=CC(=C(C(=O)N)C1)NC=1C2=C(N=C(N1)Cl)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C20H15BrClN5O3S
